US07943652B2
Following procedures analogous to those described in Example 6 Step b, using concentrated hydrochloric acid (0.5 mL, 6 mmol) in lieu of p-toluenesulfonic acid, 2-[3-(2-methoxy-vinyl)-pyrazolo[1,5-a]pyridin-2-yl]-propan-2-ol (1.23 g, 5.30 mmol) was converted to 1,1-dimethyl-3,4-dihydro-1H-2-oxa-8a,9-diaza-fluoren-3-ol (0.697 g, 3.19 mmol, 60% yield) as a light yellow solid.

reactant | hydrochloric acid | 6 mmol, 0.5 mL | Cl | ClH
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-[3-(2-methoxy-vinyl)-pyrazolo[1,5-a]pyridin-2-yl]-propan-2-ol | 5.30 mmol, 1.23 g | COC=CC=1C(=NN2C1C=CC=C2)C(C)(C)O | C13H16N2O2
product | 1,1-dimethyl-3,4-dihydro-1H-2-oxa-8a,9-diaza-fluoren-3-ol | 3.19 mmol, 0.697 g, 60% yield | CC1(OC(CC2=C3C=CC=CN3N=C12)O)C | C12H14N2O2
